US04904675
4-Phenylnicotinic acid hydrochloride (2.4 g, 0.01 mol) is dissolved in water (50 ml) and the pH is adjusted to pH 10-11 by the addition of 5N aqueous NaOH solution. A solution of peracetic acid (40% w/v, 15.2 g) is added cautiously at ambient temperatures. When the addition is complete, the reaction mixture is stirred at ambient temperature for 15 min and then heated at 50° for 4 h. After this period, the mixture is allowed to cool and evaporated in vacuo to dryness. The residue is slurried in hot ethanol (20 ml), then filtered, and the filtrates are evaporated to dryness in vacuo to yield 4-phenylnicotinic acid N-oxide.

reactant | 4-Phenylnicotinic acid hydrochloride | 0.01 mol, 2.4 g | Cl.C1(=CC=CC=C1)C1=CC=NC=C1C(=O)O
reactant | NaOH | 5N | [OH-].[Na+]
reactant | peracetic acid | 15.2 g | C(C)(=O)OO | C2H4O3
solvent | water | 50 ml | O | H2O
product | 4-phenylnicotinic acid N-oxide | C1(=CC=CC=C1)C1=CC=[N+](C=C1C(=O)O)[O-] | C12H9NO3
